US07319109B2
d) 4-(Chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole
A solution of [3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methanol (15.2 g, 53.1 mmol) in dichloromethane (50 mL) was treated with thionyl chloride (40.0 mL, 54.8 mmol). The reaction was stirred for 1 hour once vigorous bubbling ceased. The solvent and excess reagent were removed in vacuo. Yield=15.96 g. (99%) of 4 (chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole.

reactant | [3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methanol | 53.1 mmol, 15.2 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CO)C(C)C | C13H13Cl2NO2
reactant | thionyl chloride | 54.8 mmol, 40.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(Chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
